US05248782
To an ice cooled 1 mL dimethylformamide was added 0.82 g (5.4 mmol) of phosphorus oxychloride while stirring under a nitrogen atmosphere. The mixture was stirred 20 minutes and then was added a solution of 0.60 g (4.5 mmol) of 5-(pyrrol-2-yl)oxazole in 15 mL of 1,2-dichloroethane while cooling in an ice bath. The reaction mixture was then heated under reflux for 20 minutes. After cooling to room temperature, 50 mL of chloroform was added followed by 60 mL of saturated aqueous sodium acetate. After heating under reflux for 20 minutes, the mixture was cooled to room temperature and the organic layer separated, washed with aqueous sodium carbonate and dried over anhydrous sodium sulfate. Following evaporation of the solvent at reduced pressure, the crude product was purified by column chromatography with chloroform elution to give 0.58 g (80%) of 5-(5-formylpyrrol-2-yl)oxazole as a white solid, m.p. 152°-153° C.; 1H-NMR (Acetone-d6) δ 6.68 (d, 1H, ArH), 7.09 (d, 1H, ArH), 7.61 (S, 1H, ArH), 8,22 (s, 1H, ArH), 9.57 (s, 1H, CHO).

reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 5.4 mmol, 0.82 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-(pyrrol-2-yl)oxazole | 4.5 mmol, 0.60 g | N1C(=CC=C1)C1=CN=CO1 | C7H6N2O
reactant | sodium acetate | 60 mL | C(C)(=O)[O-].[Na+]
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(5-formylpyrrol-2-yl)oxazole | 0.58 g, 80% | C(=O)C1=CC=C(N1)C1=CN=CO1 | C8H6N2O2
